US05801170
4-(Tetrazol-2-yl)nitrobenzene
4-Fluoronitrobenzene (2 g, 0.014 mol), tetrazole (1 g, 0.014 mol), potassium carbonate (1.96 g, 0.014 mol) were dissolved in DMSO (50 ml) and stirred at 90° C. for 24 h under dry conditions. The yellow suspension was poured into water (150 ml), the resulting yellow solid filtered of and dried in vacuo to afford the title compound (831 mg, 31%).

reactant | 4-Fluoronitrobenzene | 0.014 mol, 2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | tetrazole | 0.014 mol, 1 g | N1N=NN=C1 | CH2N4
reactant | potassium carbonate | 0.014 mol, 1.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 4-(Tetrazol-2-yl)nitrobenzene | 831 mg, 31% | N=1N(N=NC1)C1=CC=C(C=C1)[N+](=O)[O-] | C7H5N5O2
